US06340759B1
Synthesis of 7-(4-ethylpiperazin-1-yl)-5-[4-(3-hydroxy-3-methylbutyl)phenyl]thieno[2,3-c]pyridine dihydrochloride
The resulting 7-(4-ethylpiperazin-1-yl)-5-[4-(3-oxobutyl)phenyl]thieno[2,3-c]pyridine (0.23 g) was dissolved in tetrahydrofuran (10 ml), and the resulting mixture was stirred under ice-cooling. To the resulting mixture was added 3.0M methylmagnesium bromide/ether solution (0.39 ml), and the mixture was further stirred for 3 hr. Then, 3.0M methylmagnesium bromide/ether solution (0.39 ml) was further added thereto, and the mixture was further stirred for 4.5 hr. Then, an aqueous solution of saturated ammonium chloride and ethyl acetate were added to the mixture, and the mixture was stirred. The organic layer was separated, and then it was washed with brine and dried over magnesium sulfate. The solvent was evaporated, and the resulting residue was purified by NH silica gel column chromatography (ethyl acetate/n-hexane system), to give 0.10 g of the free compound of the title compound as a colorless viscous oil.

reactant | 7-(4-ethylpiperazin-1-yl)-5-[4-(3-oxobutyl)phenyl]thieno[2,3-c]pyridine | 0.23 g | C(C)N1CCN(CC1)C=1N=C(C=C2C1SC=C2)C2=CC=C(C=C2)CCC(C)=O | C23H27N3OS
reactant | methylmagnesium bromide ether | 3.0M, 0.39 ml | C[Mg]Br.CCOCC
reactant | methylmagnesium bromide ether | 3.0M, 0.39 ml | C[Mg]Br.CCOCC
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 7-(4-ethylpiperazin-1-yl)-5-[4-(3-hydroxy-3-methylbutyl)phenyl]thieno[2,3-c]pyridine dihydrochloride | 0.10 g | Cl.Cl.C(C)N1CCN(CC1)C=1N=C(C=C2C1SC=C2)C2=CC=C(C=C2)CCC(C)(C)O | InChI=1S/C24H31N3OS.2ClH/c1-4-26-12-14-27(15-13-26)23-22-20(10-16-29-22)17-21(25-23)19-7-5-18(6-8-19)9-11-24(2,3)28;;/h5-8,10,16-17,28H,4,9,11-15H2,1-3H3;2*1H
